US04515799
4-Carbamoyl-2-{[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}-thiazole
A mixture of 2-{[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}-4-ethoxycarbonylthiazole (0.54 g), dioxane (20 ml) and 0.880 aqueous ammonium hydroxide solution (20 ml) was stirred at room temperature for 43 hours and then evaporated. The residue was partitioned between ethyl acetate and water and the organic layer washed with water, dried (Na2SO4) and evaporated. The residual oil was purified by chromatography on silica (t.l.c. grade, 10 g) using dichloromethane plus 0-3% v/v methanol as eluant. Appropriate fractions were combined and evaporated and the residual oil triturated with diethyl ether. The resulting solid was collected, washed with diethyl ether and dried to give the title compound (0.30 g) as a monohydrate, m.p. 160°-164° C. decomp.

reactant | 2-{[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}-4-ethoxycarbonylthiazole | 0.54 g | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCC=1SC=C(N1)C(=O)OCC)C(=O)OCC | C25H27ClN2O7S
reactant | ammonium hydroxide | 20 ml | [OH-].[NH4+]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 4-Carbamoyl-2-{[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}-thiazole | 0.30 g | C(N)(=O)C=1N=C(SC1)COCC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)Cl)C(=O)OC)C | C23H24ClN3O6S
